US04831034
To a solution of 3-[1-piperazinyl]biphenyl (11.9 g) in aceonitrile (200 cc), there is added potassium carbonate (6.9 g) and then, in the course of 20 minutes, a solution of α-chloro-p-xylene (8 g) in acetonitrile (50 cc), at a temperature in the region of 20° C., and stirring is continued for 16 hours. The insoluble material which has formed is separated by filtration. The solution obtained is concentrated under reduced pressure (20 mm Hg; 2.7 kPa) at 40° C. The residue is dissolved in methylene chloride (30 cc) and the solution poured onto silica (1 kg) contained in a column 8 cm in diameter. Elution is performed with a mixture (3 liters) of methylene chloride and methanol (97.5:2.5 by volume) and the corresponding eluate is concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 50° C. The residue obtained is dissolved in acetone (600 cc). The solution is cooled to a temperature in the region of 5° C., 2.5N ethereal hydrogen chloride (40 cc) is added and stirring is maintained for approximately 1 hour. The precipitate formed is separated by filtration and washed with acetone (2×40 cc). 3-[4-(4-Methylbenzyl)-1-piperzinyl]biphenyl dihydrochloride (17.3 g), m.p. 241° C., is thereby obtained.

reactant | 3-[1-piperazinyl]biphenyl | 11.9 g | N1(CCNCC1)C=1C=C(C=CC1)C1=CC=CC=C1 | C16H18N2
reactant | potassium carbonate | 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | α-chloro-p-xylene | 8 g | ClCC1=CC=C(C=C1)C | C8H9Cl
reactant | hydrogen chloride | 2.5N, 40 cc | Cl | ClH
solvent | acetonitrile | 50 cc | C(C)#N | C2H3N
solvent | acetone | 600 cc | CC(=O)C | C3H6O
product | 3-[4-(4-Methylbenzyl)-1-piperzinyl]biphenyl dihydrochloride | 17.3 g | Cl.Cl.CC1=CC=C(CN2CCN(CC2)C=2C=C(C=CC2)C2=CC=CC=C2)C=C1 | InChI=1S/C24H26N2.2ClH/c1-20-10-12-21(13-11-20)19-25-14-16-26(17-15-25)24-9-5-8-23(18-24)22-6-3-2-4-7-22;;/h2-13,18H,14-17,19H2,1H3;2*1H
